US05596097
A solution of N-[2-(dimethylamino)ethyl]hydrazine (8.5 mg) in pyridine (0.5 mL) is added to 9-chloro-6-fluoro-4-(p-methoxybenzyloxy) benzo[g]isoquinoline-5,10-dione of Preparative Example 29 (13 mg) over a period of 2 minutes at 0° C. under a nitrogen blanket and the mixture is stirred for 2 h. The excess pyridine and some excess hydrazine are removed under a nitrogen stream. The residue is placed under vacuum overnight. The product is purified by thick layer chromathography (silica gel, 10 cm by 20 cm) using 4% methanol/96% dicloromethane. The major yellow band is scraped from the plate and the yellow compound extracted into 25% methanol/75% dicloromethane. Removal of the solvent gives 5-chloro-2-[2-(dimethylamino)ethyl]-10-(p-methoxybenzyloxy) isoquino[5,6,7-cd]indazole-6(2H)-one (3 mg) as an amorphous solid.

reactant | N-[2-(dimethylamino)ethyl]hydrazine | 8.5 mg | CN(CCNN)C | C4H13N3
reactant | 9-chloro-6-fluoro-4-(p-methoxybenzyloxy) benzo[g]isoquinoline-5,10-dione | ClC1=CC=C(C=2C(C=3C(=CN=CC3C(C21)=O)OCC2=CC=C(C=C2)OC)=O)F | C21H13ClFNO4
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 5-chloro-2-[2-(dimethylamino)ethyl]-10-(p-methoxybenzyloxy) isoquino[5,6,7-cd]indazole-6(2H)-one | 3 mg | ClC1=C2C=3C(=NN(C3C=C1)CCN(C)C)C=1C(=CN=CC1C2=O)OCC2=CC=C(C=C2)OC | C25H23ClN4O3
